US09212154B2
Under an argon atmosphere, L-cysteine (10 g) was dissolved in pure water (150 ml), and ethyl pyruvate (19.7 ml) dissolved in ethanol (10 ml) at room temperature was gradually added to the solution. The mixture was stirred overnight at room temperature, and concentrated under reduced pressure. The obtained solid was dissolved in pure water, and the solution was extracted with chloroform. The extract was dried over magnesium sulfate, and concentrated under reduced pressure to give an oil. The oil was recrystallized from chloroform/hexane to give 2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester (diastereomer mixture) (12.7 g, yield 70%).

reactant | L-cysteine | 10 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | ethyl pyruvate | 19.7 ml | C(C(=O)C)(=O)OCC | C5H8O3
solvent | water | 150 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester | 12.7 g, yield 70% | CCOC(=O)C1(SCC(N1)C(=O)O)C | C8H13NO4S
